US05098930
Using the procedure described in the portion of Example 1 which is concerned with the preparation of starting materials, a Grignard reagent was prepared from 3-benzyloxybromobenzene (10.5 g) and 2-methyltetrahydropyran-4-one (2.28 g) was added. The mixture was stirred at ambient temperature for 3 hours, acidified by the addition of 2N hydrochloric acid solution and extracted with ethyl acetate. Column chromatography, using a 10:3 v/v mixture of toluene and ethyl acetate as eluent, gave a less polar isomer, (2RS,4SR)-4-(3-benzyloxyphenyl)-4-hydroxy-2-methyltetrahydropyran (2.45 g, 41%), as an oil,

reactant | 3-benzyloxybromobenzene | 10.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)Br | C13H11BrO
reactant | 2-methyltetrahydropyran-4-one | 2.28 g | CC1OCCC(C1)=O | C6H10O2
reactant | hydrochloric acid | 2N | Cl | ClH
product | (2RS,4SR)-4-(3-benzyloxyphenyl)-4-hydroxy-2-methyltetrahydropyran | 2.45 g, 41% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CC(OCC1)C)O | C19H22O3
